US03988338
4-(n-hexylamino)-2-methylthiopyrrolo[2,3-d]pyrimidine:
To 200 mg of 4-chloro-2-methylthiopyrrolo[2,3-d]-pyrimidine was added 2 ml of n-hexylamine. The solution was heated at reflux under nitrogen for 2 hours. The resulting dark oil was purified by chromatography on 30 g of Sephadex LH-20, elution with H2O and then with increasing concentrations of ethyl alcohol up to 40% ethyl alcohol. The appropriate fractions were combined and evaporated to dryness and the solid residue was crystallized from ethyl alcohol/water to afford white crystals of product, yield 79 mg (60%), m.p. 117.5° - 118.5°.

reactant | 4-chloro-2-methylthiopyrrolo[2,3-d]-pyrimidine | 200 mg | ClC1=C2C(NC(=N1)SC)=NC=C2 | C7H6ClN3S
reactant | n-hexylamine | 2 ml | C(CCCCC)N | C6H15N
product | 4-(n-hexylamino)-2-methylthiopyrrolo[2,3-d]pyrimidine | C(CCCCC)NC1=C2C(NC(=N1)SC)=NC=C2 | C13H20N4S
